US06897231B2
F. 3-[3-(4-Methylphenyl)-1H-indazol-5-yl]-1H-1,2,4-triazole
2-{3-(4-Methylphenyl)-5-[1-(trimethylphenyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran (0.130 g, 0.216 mmol) was dissolved in 4 mL of 4.0 N HCl in dioxane and 2 mL of 6.0 N aqueous HCl were added. After 2 hours at room temperature, the reaction mixture was neutralized using aqueous sodium hydroxide (6.0 N) and the product was extracted with ethyl acetate. The extracts were dried under vacuum and dissolved in 5 mL of 6.0 N aqueous sodium hydroxide, side products extracted twice with diethyl ether. The aqueous phase was neutralized with 6.0 N HCl and the product was extracted with ethyl acetate. The crude was purified by preparative HPLC (15-80% acetonitrile in water) (0.024 g, 40% yield): 1H NMR (DMSO-d6) δ 13.4 (br s, 1H), 8.7 (s, 1H), 8.4 (br s, 1H), 8.1 (dd, 1H), 7.9 (d, 2H), 7.7 (d, 1H), 7.4 (d, 2H), 7.0 (d, 1H), 2.4 (s, 3H); ES-MS (m/z) 276 [M+]+.

reactant | 2-{3-(4-Methylphenyl)-5-[1-(trimethylphenyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran | 0.216 mmol, 0.130 g | CC1=CC=C(C=C1)C1(NNC2=CC=C(C=C12)C1=NN(C=N1)C1=C(C(=C(C=C1)C)C)C)C(=O)C1OCCCC1 | C31H33N5O2
reactant | sodium hydroxide | 6.0 N | [OH-].[Na+]
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 6.0 N, 2 mL | Cl | ClH
product | 3-[3-(4-Methylphenyl)-1H-indazol-5-yl]-1H-1,2,4-triazole | 40% yield | CC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NNC=N1 | C16H13N5
